US09238668B2
10 mmol of 2-bromo-9H-carbazole, 0.1 mmol of pyridinium toluene-4-sulphonate, and 50 mmol of 3,4-dihydro-2H-pyran was added to dichloromethane at room temperature and let stir for 2 hours before the temperature was raised to 50° C. for 2 hours further. The solution was cooled, concentrated under reduced pressure, and subjected to column chromatography of silica with dichloromethane as the eluent. After concentrating under reduced pressure, 2-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-carbazole was isolated in 90% yield.

reactant | 2-bromo-9H-carbazole | 10 mmol | BrC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H8BrN
reactant | pyridinium toluene-4-sulphonate | 0.1 mmol | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 50 mmol | O1CCCC=C1 | C5H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-carbazole | 90% yield | BrC1=CC=2N(C3=CC=CC=C3C2C=C1)C1OCCCC1 | C17H16BrNO
